US07253192B2
A] 2-Methyl-2-{2-methyl-4-[4-(4-trifluoromethyl-phenyl)-but-3-ynylsulfanyl]-phenoxy}-propionic acid ethyl ester
In analogy to the procedure described in example 1D], 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester (example 1C]) was reacted with 1-(4-iodo-but-1-ynyl)-4-trifluoromethyl-benzene (example 2E]) to give the title compound as colorless oil.

reactant | 2-(4-acetylsulfanyl-2-methyl-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(C)(C)OC1=C(C=C(C=C1)SC(C)=O)C)=O | C15H20O4S
reactant | 1-(4-iodo-but-1-ynyl)-4-trifluoromethyl-benzene | ICCC#CC1=CC=C(C=C1)C(F)(F)F | C11H8F3I
product | 2-Methyl-2-{2-methyl-4-[4-(4-trifluoromethyl-phenyl)-but-3-ynylsulfanyl]-phenoxy}-propionic acid ethyl ester | C(C)OC(C(C)(OC1=C(C=C(C=C1)SCCC#CC1=CC=C(C=C1)C(F)(F)F)C)C)=O | C24H25F3O3S
